*ECE298_RS_ADAPTER
C1 1003 0 10U
C2 1006 0 10U
C3 1055 0 10U
C4 1006 0 10000PF
C5 1006 0 10000PF
C6 1003 0 10000PF
C7 1055 0 10000PF
C8 1060 0 10U
CN7 1000 1099 1016 1070 1020 1021 1022 0 1024 1001 1002 1003 1100 1004 1101 1003 1102 1006 0 0 1075 0 1103 1010 1011 1012 1013 1014 1015 1104 1017 1105 1018 1019 1106 1107 1108 1109 1-534236-9
CN10 1110 1111 1148 1112 1041 1113 1042 1043 0 1025 1114 1026 1027 1028 1115 1029 1116 1117 1118 0 1031 1032 1033 1034 1035 1119 1036 1120 1037 1121 1122 0 1123 1124 1125 1039 1126 1040 1-534236-9
J1 1045 1046 0 1048 4PINREC_RGB
J2 1059 1060 0 3PINHDR_SERVO
J3 0 1091 1092 1093 1094 1095 1096 1097 1098 1147 RS_10PINREC
J4 1051 1052 DC_MOTOR
J5 0 ECE298_TERMINAL_VIA
J6 0 1076 1075 1006 4PINREC_HCSR04
J7 1006 0 1073 0 4PINREC_RPM
J8 1060 0 5V_RS_PWR_EXT
J9 1055 0 6V_RS_PWR_EXT
J10 1034 ECE298_TERMINAL_VIA
J11 1060 TERMINAL_VIA
J12 1059 TERMINAL_VIA
R1 1000 1045 150
R2 1016 1046 80
R3 1070 1048 80
U1 0 0 1026 1028 1031 1033 1029 1035 1036 1037 0 1091 1092 1093 1094 1095 1096 1097 1098 1006 RS_74HCT541
U2 1014 0 0 0 0 0 0 1059 1131 1130 1129 1128 1127 1006 ECE298_RS_74HC4050
U3 0 0 1076 1073 0 0 0 0 0 0 0 1041 1032 1137 1136 1135 1134 1133 1132 1003 RS_74HCT541
U4 0 0 1027 1019 1051 1052 1055 1055 ECE298_RS_L9110
U5 0 1003 1034 10K
